US07709469B2
2,3-dichloro-N-[(dimethylamino)methylene]benzamide
2,3-Dichlorobenzamide (4.96 g, 26.1 mmol) and dimethylformamide dimethylacetal (10 mL) were heated at reflux for 1.5 hours, allowed to cool to room temperature, concentrated under reduced pressure, and the residue was partitioned between diethyl ether and water. The organic phase was washed with water (2×), saturated sodium chloride, dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography eluting with ethyl acetate to provide the title compound. MS (DCI/NH3) m/z 245 (M+H)+.

reactant | 2,3-Dichlorobenzamide | 26.1 mmol, 4.96 g | ClC1=C(C(=O)N)C=CC=C1Cl | C7H5Cl2NO
reactant | dimethylformamide dimethylacetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | 2,3-dichloro-N-[(dimethylamino)methylene]benzamide | ClC1=C(C(=O)N=CN(C)C)C=CC=C1Cl | C10H10Cl2N2O
